US09290791B2
To a solution of N-hydroxyphthalimide (352 mg, 2.16 mmol) in 4 mL of DMF was added 2-bromoethyl ether (500 mg, 2.16 mmol) followed by triethylamine (218 mg, 2.16 mmol), and the resulting solution was stirred at 45° C. overnight. Water was added to quench the reaction, the aqueous layer was extracted with ethyl acetate for 3 times, the combined organic layers were washed with brine and dried over anhydrous Na2SO4. Solvent was removed under reduced pressure, the crude product was purified by silica gel column chromatography (hexanes: ethyl acetate 2:1) to afford 2-(2-(2-bromoethoxy)ethoxy)isoindoline-1,3-dione (550 mg, 1.75 mmol, 81%) as colorless oil. 1H NMR (CDCl3, 500 MHz) δ (ppm): 3.38 (t, J=6.2 Hz, 2H), 3.81 (t, J=6.2 Hz, 2H), 3.87 (t, J=4.1 Hz, 2H), 4.37 (t, J=4.1 Hz, 2H), 7.73 (dd, J=3.0, 5.0 Hz, 2H), 7.82 (dd, J=3.2, 5.0 Hz, 2H).

reactant | N-hydroxyphthalimide | 2.16 mmol, 352 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-bromoethyl ether | 2.16 mmol, 500 mg | BrCCOCCBr | C4H8Br2O
reactant | triethylamine | 2.16 mmol, 218 mg | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-(2-bromoethoxy)ethoxy)isoindoline-1,3-dione | 1.75 mmol, 550 mg, 81% | BrCCOCCON1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO4
